US04200466
(c) Preparation of 3-[4-(2,4-di-tert-amylphenoxyacetamido)anilino)phenol
To a solution of 11 g (0.055 mol) of 3-(4-aminoanilino)phenol in glacial acetic acid was added 4.6 g of anhydrous sodium acetate. During agitation at room temperature, the mixture was charged with 17.1 g (0.055 mol) of 2,4-di-tert-amylphenoxyacetyl chloride at a temperature below 30° C. After continuing the agitation for an additional 30 minutes at that temperature, the mixture was poured into iced water, and the deposited crystals were filtered, followed by recrystallization with methanol. The yield was 20 g and the melting point was 150°-152° C.

reactant | 3-(4-aminoanilino)phenol | 0.055 mol, 11 g | NC1=CC=C(NC=2C=C(C=CC2)O)C=C1 | C12H12N2O
reactant | sodium acetate | 4.6 g | C(C)(=O)[O-].[Na+]
reactant | 2,4-di-tert-amylphenoxyacetyl chloride | 0.055 mol, 17.1 g | C(C)(C)(CC)C1=C(OCC(=O)Cl)C=CC(=C1)C(C)(C)CC | C18H27ClO2
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[4-(2,4-di-tert-amylphenoxyacetamido)anilino)phenol | C(C)(C)(CC)C1=C(OCC(=O)NC2=CC=C(NC=3C=C(C=CC3)O)C=C2)C=CC(=C1)C(C)(C)CC | C30H38N2O3
